US07517893B2
To a chilled suspension of hydroxylamine hydrochloride (17.25 g, 0.25 mol) in DMSO (150 ml) was added portionwise KO-t-Bu (28.0 g, 0.25 mol) and the mixture was stirred under nitrogen for 30 min. 2-Bromo-5-(4-cyanophenyl)furan (17.37 g, 0.07 mol) was then added and the mixture was stirred overnight at room-temperature. The resulting solution was diluted with excess water to give 2-bromo-5-[4-(N-hydroxyamidino)phenyl]furan as an off-white solid, which was collected and washed with water. Yield: 19.45 g, 99%; mp 162-164° C. 1H NMR (DMSO-d6): 5.84 (broad s, 2H), 6.71 (d, J=3.6 Hz, 1H), 7.05 (d, J=3.6 Hz, 1H), 7.65 (d, J=8.4 Hz, 2H), 7.72 (d, J=8.4 Hz, 2H), 9.70 (s, 1H). IR (cm−1): 3475, 3369, 3209 (broad), 1639, 1482, 1341, 1017, 927, 787. The intermediate amidoxime (38.9 g, 0.138 mol) was dissolved in a mixture of DMSO (60 ml) and dioxane (300 ml) and with chilling was treated with a solution of LiOH hydrate (11.61 g, 0.277 mol) in water (60 ml). At room temperature, the resulting suspension was then treated dropwise via an addition funnel with dimethyl sulfate (26.18 g. 0.208 mol) over the course of ˜30 min. Following the addition, the mixture became slightly warm and the solids dissolved. After stirring overnight, the mixture was diluted with excess water and extracted with EtOAc. Purification of the residue by column chromatography on silica gel eluting with 10% EtOAc in hexane gave the slightly impure product, which was further purified by recrystallization from MeOH/water in multiple crops to give an off-white solid, mp 116-117° C. Yield: 28.0 g, 69%. 1H NMR (DMSO-d6, an apparent mixture of stereoisomers): 3.74 (2s, 3H), 6.09 (broad s, 2H), 6.72 (2d, J=3.6 Hz, 1H), 7.09 (2d, J=3.6 Hz, 1H), 7.70 (m, 4H). IR (cm−1): 3459, 3312, 3177, 2957, 2935, 2901, 2818, 1634, 1403, 1051, 910, 842, 785.

reactant | hydroxylamine hydrochloride | 0.25 mol, 17.25 g | Cl.NO
reactant | KO-t-Bu | 0.25 mol, 28.0 g | O([K])C(C)(C)C
reactant | 2-Bromo-5-(4-cyanophenyl)furan | 0.07 mol, 17.37 g | BrC=1OC(=CC1)C1=CC=C(C=C1)C#N | C11H6BrNO
solvent | DMSO | 150 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-bromo-5-[4-(N-hydroxyamidino)phenyl]furan | BrC=1OC(=CC1)C1=CC=C(C=C1)C(NO)=N | C11H9BrN2O2
